US04226869
To a solution of 19.1 g. of 2,5-dichlorobenzoic acid [Besley & Goldberg, J. Chem. Soc., 2448 (1954)] in 100 ml. of amyl alcohol is added 6.9 g. of anhydrous potassium carbonate and 0.1 g. of copper oxide. The mixture is stirred and heated at 100° C. for 30 minutes, then 13.0 g. of 5-amino-2-methoxypyridine is added and the mixture is heated at reflux and stirred for 3 hours. A small amount of water forms and is collected in a Dean-Stark apparatus. The reaction mixture is cooled, poured into water and made basic with potassium carbonate. The mixture is steam-distilled to remove the amyl alcohol, then filtered and the filtrate is acidified to pH 6. The mixture is again filtered and this pink filtrate is acidified with 6 N hydrochloric acid to pH 4. The solid is collected, giving 5-chloro-2-(6-methoxy-3-pyridylamino)benzoic acid as a pink crystalline solid.

reactant | 2,5-dichlorobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | amyl alcohol | C(CCCC)O | C5H12O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 5-amino-2-methoxypyridine | NC=1C=CC(=NC1)OC | C6H8N2O
catalyst | copper oxide | [Cu]=O
product | 5-chloro-2-(6-methoxy-3-pyridylamino)benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)NC=1C=NC(=CC1)OC | C13H11ClN2O3
